US06372764B1
1-(1-Naphthoyl)-3-(RS)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(SR)-methoxycarbonylpyrrolidine
To a solution of 0.037 g (0.08 mmol) of 1-(1-naphthoyl)-3-(RS)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(SR)-carboxypyrrolidine in 0.6 mL of MeOH and 1.2 mL of THF at rt was added 0.2 mL (0.4 mmol) of TMSCHN2 (2M in hexanes) and the reaction mixture was stirred for 6 h. The reaction mixture was concentrated and the residue was purified by chromatography (silica, acetone:hexanes, 1:3) to give the title compound. 1H NMR (CDCl3) δ (key peaks) 7.87-7.91 (m, 3H), 7.47-7.56 (m, 4H), 7.15-7.18 and 7.08-7.11 (m, 2H), 6.98 and 6.95 (t, 2H, J=8.5 Hz),3.79 and 3.62 (s, 3H1); Mass Spectrum (ESI) m/e=475 (M+1).

reactant | 1-(1-naphthoyl)-3-(RS)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(SR)-carboxypyrrolidine | 0.08 mmol, 0.037 g | C1(=CC=CC2=CC=CC=C12)C(=O)N1CC(C(C1)C(=O)O)CN1CCC(CC1)C1=CC=C(C=C1)F | C28H29FN2O3
reactant | TMSCHN2 | 0.4 mmol, 2M, 0.2 mL | [Si](C)(C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | MeOH | 0.6 mL | CO | CH4O
solvent | THF | 1.2 mL | C1CCOC1 | C4H8O
product | 1-(1-Naphthoyl)-3-(RS)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(SR)-methoxycarbonylpyrrolidine | C1(=CC=CC2=CC=CC=C12)C(=O)N1CC(C(C1)C(=O)OC)CN1CCC(CC1)C1=CC=C(C=C1)F | C29H31FN2O3
